US09056881B2
2-(Allyloxy)ethyl bis(pentafluoroethyl)phosphinate, (C2F5)2P(O)OCH2CH2—OCH2CH═CH2, (4.135 g; 10.7 mmol) is slowly added dropwise to dry and cooled (0° C.) N-methylimidazole (0.793 g; 9.7 mmol) (exothermic) in a 50 ml glass flask. A pale-yellow, more highly viscous solution forms spontaneously, which is stirred at 0° C. for 1.5 h, warmed and stirred at room temperature for 5 h. The readily volatile constituents are removed in vacuo (10−3 mbar) at room temperature. 3-[2-(Allyloxy)ethyl]-1-methylimidazolium bis(pentafluoroethyl)phosphinate, [CH2═CHCH2OCH2CH2MIM][(C2F5)2—P(O)O], (4.521 g; 9.7 mmol) is isolated as highly viscous, pale-yellow liquid in quantitative yield and a purity of 94%.

reactant | 2-(Allyloxy)ethyl bis(pentafluoroethyl)phosphinate | FC(C(F)(F)F)(F)P(OCCOCC=C)(=O)C(C(F)(F)F)(F)F | C9H9F10O3P
reactant | (C2F5)2P(O)OCH2CH2—OCH2CH═CH2 | P(=O)(C(F)(F)C(F)(F)F)(C(F)(F)C(F)(F)F)OCCOCC=C | C9H9F10O3P
reactant | N-methylimidazole | 9.7 mmol, 0.793 g | CN1C=NC=C1 | C4H6N2
product | 3-[2-(Allyloxy)ethyl]-1-methylimidazolium bis(pentafluoroethyl)phosphinate | quantitative yield | FC(C(F)(F)F)(F)P([O-])(=O)C(C(F)(F)F)(F)F.C(C=C)OCCN1C=[N+](C=C1)C | InChI=1S/C9H15N2O.C4HF10O2P/c1-3-7-12-8-6-11-5-4-10(2)9-11;5-1(6,7)3(11,12)17(15,16)4(13,14)2(8,9)10/h3-5,9H,1,6-8H2,2H3;(H,15,16)/q+1;/p-1
